US04733000
In this example, 6.05 g of 4-benzyloxyphenylacetic acid obtained as in Example 1, is dissolved in 125 ml of thionyl chloride, and boiled for 4 hours. Excess thionyl chloride is distilled off under reduced pressure, and the residue is dried, whereby 4-benzyloxyphenylacetic acid chloride is obtained. The thus obtained product is then dissolved in 25 ml of anhydrous benzene, and the resulting solution is added dropwise to 8.3 g of triethyl phosphite in a nitrogen gas stream with stirring under ice cooling.

reactant | 4-benzyloxyphenylacetic acid | 6.05 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | thionyl chloride | 125 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-benzyloxyphenylacetic acid chloride | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)Cl | C15H13ClO2
